US08246991B2
Preparation of N-Cbz-valylprolylglycine methyl ester (Cbz-NH-[VPG]-CO2CH3):
To a solution of N-Cbz-valylproline (Cbz-NH-[VP]-CO2H) (3.5 g, 10 mmol), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide (1.6 g, 11 mmol) and triethylamine (2.0 g, 20 mmol) in DMF (15 mL) is added dropwise a solution of glycine methyl ester hydrochloride (1.38 g, 11 mmol) in DMF (5 mL). The solution is stirred at room temperature and the reaction monitored by TLC until the disappearance of N-Cbz-valylproline. The reaction solution is then diluted with dichloromethane (50 mL) and the organic layer is extracted with 0.1 N HCl (20 mL), water (20 mL), then dried over Na2SO4. The solvent is removed in vacuo to afford the desired compound.

reactant | N-Cbz-valylproline | 10 mmol, 3.5 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1 | C18H24N2O5
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide | 11 mmol, 1.6 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 20 mmol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | glycine methyl ester hydrochloride | 11 mmol, 1.38 g | Cl.COC(CN)=O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-Cbz-valylprolylglycine methyl ester | COC(CNC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O)=O | C21H29N3O6
